US09107415B2
Intermediate 6: Synthesis of 2-[2-chloro-6-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-3-methoxy-cyclopent-2-en-1-one
2-(2-chloro-6-methoxy-phenyl)-3-methoxy-cyclopent-2-en-1-one (2.87 g, 11.4 mmol), 4,4,5,5-tetramethyl-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,3,2-dioxaborolane (3.46 g, 13.6 mmol), di-μ-methoxobis(1,5-cyclooctadiene)diiridium(I) (0.339 g, 0.511 mmol) and 4-tert-butyl-2-(4-tert-butyl-2-pyridyl)pyridine (0.280 g, 1.02 mmol) were added to a two necked flask and evacuated/purged with nitrogen (×3). Methyl tert-butyl ether (12 mL) was added to the flask and the resultant solution was heated to 80°C. for 5 hours then stood at room temperature overnight. The mixture was concentrated to a small volume and then dissolved in dichloromethane and adsorbed onto silica. The crude material was purified by flash chromatography over silica using an EtOAc/isohexane gradient to give the desired compound as a separable mixture of atropisomers with identical spectral data (3.60 g, 67%). 1H NMR (400 MHz, CDCl3) δ ppm 7.50 (s, 1H), 7.21 (s, 1H), 3.83 (s, 3H), 3.74 (s, 3H), 2.78-2.76 (m, 2H), 2.63-2.60 (m, 2H), 1.34 (s, 12H).

reactant | 2-(2-chloro-6-methoxy-phenyl)-3-methoxy-cyclopent-2-en-1-one | 11.4 mmol, 2.87 g | ClC1=C(C(=CC=C1)OC)C=1C(CCC1OC)=O | C13H13ClO3
reactant | 4,4,5,5-tetramethyl-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,3,2-dioxaborolane | 13.6 mmol, 3.46 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | 4-tert-butyl-2-(4-tert-butyl-2-pyridyl)pyridine | 1.02 mmol, 0.280 g | C(C)(C)(C)C1=CC(=NC=C1)C1=NC=CC(=C1)C(C)(C)C | C18H24N2
catalyst | di-μ-methoxobis(1,5-cyclooctadiene)diiridium(I) | 0.511 mmol, 0.339 g | CO.CO.C1/C=C\CC/C=C\C1.C1/C=C\CC/C=C\C1.[Ir].[Ir]
product | 2-[2-chloro-6-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-3-methoxy-cyclopent-2-en-1-one | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)OC)C=1C(CCC1OC)=O | C19H24BClO5
